US07163938B2
B. 5-Chloro-2-[1-(1-methyl-hexahydroazepin-4-yl)piperidin-4-ylcarbonylamino]-N-(5-chloropyridin-2-yl)benzamide.
The title compound is prepared from 5-chloro-2-(piperidin-4-ylcarbonylamino)-N-(5-chloropyridin-2-yl)-benzamide and 1-methyl-hexahydro-4H-azepin-4-one by reductive alkylation using NaCNBH3 and 5%-acetic acid in methanol, for example using a procedure similar to that of Example 25-F.

reactant | 5-chloro-2-(piperidin-4-ylcarbonylamino)-N-(5-chloropyridin-2-yl)-benzamide | ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(=O)C1CCNCC1 | C18H18Cl2N4O2
reactant | 1-methyl-hexahydro-4H-azepin-4-one | CN1CCC(CCC1)=O | C7H13NO
reactant | NaCNBH3 | [BH3-]C#N.[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 5-Chloro-2-[1-(1-methyl-hexahydroazepin-4-yl)piperidin-4-ylcarbonylamino]-N-(5-chloropyridin-2-yl)benzamide | ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(=O)C1CCN(CC1)C1CCN(CCC1)C | C25H31Cl2N5O2
